US06048842
Orcinol monohydrate (50 g) is dissolved in pyridine (400 ml), and thereto is added acetic anhydride (133 ml), and the mixture is stirred at room temperature for 17 hours. The reaction mixture is concentrated under reduced pressure, and the resulting residue is dissolved in ethyl acetate (500 ml). The mixture is washed successively with 10% hydrochloric acid, water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried, and concentrated under reduced pressure to give orcinol diacetate (74 g).

reactant | Orcinol monohydrate | 50 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | acetic anhydride | 133 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | orcinol diacetate | 74 g | C(C)(=O)OC=1C=C(C=C(C1)C)OC(C)=O | C11H12O4
